.title 3 Levels PWM Generator
** input nodes:
*           ||=============>signal: arbitrary voltage signal to be 
*           ||                      modulated (e.g. sine wave)
*           ||     ||======>freq: carier voltage given as a voltage value
*           ||     ||   ||=>output: PWM output signal
.subckt PWM3 signal freq output

BsawtoothP      sawtoothP       gnd     v=0.5+(time*v(freq)-floor(0.5+time*v(freq)))
BsawtoothM      sawtoothN       gnd     v=-0.5+(time*v(freq)-floor(0.5+time*v(freq)))
Bpwm            output          gnd     v=v(signal)>=v(sawtoothP) && v(signal)>=0 ? 1 : v(signal)<=v(sawtoothN) && v(signal)<=0 ? -1 : 0

.ends PWM3